US06881736B1
h) Methyl (±)-3-[4-(benzyloxycarbonyl)-1,3-oxazol-2-yl]-4-[4-[(tert-butyloxycarbonyl)oxy]phenyl]butanoate
To a solution of methyl (±)-3-[4-(benzyloxycarbonyl)-1,3-oxazol-2-yl]-4-(4-hydroxyphenyl)butanoate (700 mg, 1.77 mmole) and di-tert-butyl dicarbonate (463 mg, 2.12 mmole) in dry THF (10 mL) was added pyridine (0.17 mL, 2.12 mmole) at RT. After 18 hr the mixture was concentrated. The residue was triturated with hexanes, filtered, and dried in vacuo to give the title compound (765 mg, 87%) as a white solid: MS (ES) m/e 496 (M+H)+.

reactant | methyl (±)-3-[4-(benzyloxycarbonyl)-1,3-oxazol-2-yl]-4-(4-hydroxyphenyl)butanoate | 1.77 mmole, 700 mg | C(C1=CC=CC=C1)OC(=O)C=1N=C(OC1)C(CC(=O)OC)CC1=CC=C(C=C1)O | C22H21NO6
reactant | di-tert-butyl dicarbonate | 2.12 mmole, 463 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | pyridine | 2.12 mmole, 0.17 mL | N1=CC=CC=C1 | C5H5N
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | Methyl (±)-3-[4-(benzyloxycarbonyl)-1,3-oxazol-2-yl]-4-[4-[(tert-butyloxycarbonyl)oxy]phenyl]butanoate | 765 mg, 87% | C(C1=CC=CC=C1)OC(=O)C=1N=C(OC1)C(CC(=O)OC)CC1=CC=C(C=C1)OC(=O)OC(C)(C)C | C27H29NO8
